US05624661
diethylenetriaminetetraacetic acid;
ethylenediaminetetraacetic acid; 1,4,7,10-tetraazacyctododecane-N,N',N',N'"-tetraacetic acid; 1,4,7,10-tetraazacyctododecane-N,N',N"-triacetic acid; 3,6,9-triaza-12-oxa-3,6,9-tricarboxymethylene-10-carboxy-13-phenyltridecanoic acid; hydroxybenzylethylenediamine diacetic acid; N,N'-bis(pyridoxyl-5-phosphate)ethylene diamine; N,N'-diacetate; 1,4,7-triazacyclononane-N,N',N"-triacetic acid; 1,4,8,11-tetraazacyclotetradecane-N,N'N",N'"-tetraacetic acid; and kryptands.

reactant | ethylenediaminetetraacetic acid | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | triacetic acid | CC(=O)CC(=O)CC(=O)O | C6H8O4
reactant | hydroxybenzylethylenediamine diacetic acid | C(C)(=O)O.C(C)(=O)O.ON(CCN)CC1=CC=CC=C1
reactant | 1,4,7-triazacyclononane-N,N',N"-triacetic acid | C1CN(CCN(CCN1CC(=O)O)CC(=O)O)CC(=O)O | C12H21N3O6
solvent | tetraacetic acid | CC(=O)O.CC(=O)O.CC(=O)O.CC(=O)O | 4C2H4O2
product | diethylenetriaminetetraacetic acid | C(CN(CC(=O)O)CC(=O)O)NCCN(CC(=O)O)CC(=O)O | C12H21N3O8
